US07981886B2
29.b) (3R,6S)-6-{[6-(4-methoxy-benzothiazole-2-carbonyl)-tetrahydro-pyran-3-ylamino]-methyl}-4H-pyrido[3,2-b][1,4]thiazin-3-one
Using the same method as for Example 23, steps 23.a to 23.f, the title compound was synthesised from 4-methoxybenzothiazole, (3R,6S)-(6-formyl-tetrahydro-pyran-3-yl)-carbamic acid tert-butyl ester and 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carbaldehyde. After chromatography on SiO2 (EtOAc/MeOH 9:1 +1% NH4OH) and crystallisation from ether/MeOH, a yellowish solid (30 mg) was obtained.

reactant | 4-methoxybenzothiazole | COC1=CC=CC2=C1N=CS2 | C8H7NOS
reactant | (3R,6S)-(6-formyl-tetrahydro-pyran-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1CO[C@@H](CC1)C=O)=O | C11H19NO4
reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carbaldehyde | O=C1NC2=C(SC1)C=CC(=N2)C=O | C8H6N2O2S
product | (3R,6S)-6-{[6-(4-methoxy-benzothiazole-2-carbonyl)-tetrahydro-pyran-3-ylamino]-methyl}-4H-pyrido[3,2-b][1,4]thiazin-3-one | COC1=CC=CC2=C1N=C(S2)C(=O)[C@@H]2CC[C@H](CO2)NCC=2C=CC=1SCC(NC1N2)=O | C22H22N4O4S2
